US09303012B2
b) 1-[6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carbonyl]-pyrrolidine-2-carboxylic acid amide
To an ice-cold solution of 1-(6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinoyl)pyrrolidine-2-carboxylic acid (8.6 mg, 22.6 μmol) in DMF (2 mL) was added carbonyldiimidazole (10.2 mg, 63.1 μmol). After 5 minutes the reaction mixture was warmed to ambient temperature and stirred for 2 h. NH3 gas was bubbled through the solution for 10 minutes and stirring was continued for 12 h. The reaction mixture was poured onto ice-water (20 mL) and extracted with EtOAc (2×20 mL). The combined extracts were dried over Na2SO4 and concentrated in vacuo to give the title compound (9 mg, quant.) as colorless wax; MS (EI): m/e=381.5 [MH+].

reactant | 1-(6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinoyl)pyrrolidine-2-carboxylic acid | 22.6 μmol, 8.6 mg | C1(CC1)COC1=C(C=CC(=N1)C(=O)N1C(CCC1)C(=O)O)N1CC(C1)(F)F | C18H21F2N3O4
reactant | carbonyldiimidazole | 63.1 μmol, 10.2 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carbonyl]-pyrrolidine-2-carboxylic acid amide | 9 mg | C1(CC1)COC1=C(C=CC(=N1)C(=O)N1C(CCC1)C(=O)N)N1CC(C1)(F)F | C18H22F2N4O3
